US06660742B2
Acetic anhydride (0.35 mL, 3.71 mmol) was added to a solution of 2-[4-benzyloxy-2-nitronaphthalen-1-yl]ethanol ((0.3 g, 0.93 mmol) in dry pyridine (3 mL) at room temperature and stirred overnight. The mixture was concentrated and dissolved in AcOEt (50 mL). The organic layer was washed with 1 M HCl (10 mL), saturated aqueous NaHCO3 (10 mL) and saturated aqueous NaCl (10 mL), and then the organic layer was dried (Na2SO4) and concentrate. The residue was purified by silica-gel column (AcOEt: Petroleum ether=1: 6) to yield 2-[4-benzyloxy-2-nitronaphthalen-1-yl]ethyl acetate ((0.21 g, 62%) as a yellow solid. mp 82-87° C.; 1H NMR (CDCl3, 500 MHz) δ 8.43 (d, 8.5, 1H), 8.33 (d, 8.5, 1H), 7.33 (dt, 1.0, 7.5, 1H), 7.66 (dt, 1.0, 7.0, 1H), 7.54 (d, 7.5, 2H), 7.45 (t, 7.5, 2H), 7.40 (t, 7.0, 1H), 7.28 (s, 1H), 5.30 (s, 2H), 4.47 (t, 7.0, 2H), 3.55 (t, 7.0, 2H), 2.06 (s, 3H); EIMS m/z 388 (M+Na+); IR (neat) νmax 1738, 1593, 1527, 1514, 1466, 1424, 1365, 1337, 1235, 1104, 1043, 770, 752, 698 cm−1.

reactant | Acetic anhydride | 3.71 mmol, 0.35 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-[4-benzyloxy-2-nitronaphthalen-1-yl]ethanol | C(C1=CC=CC=C1)OC1=CC(=C(C2=CC=CC=C12)CCO)[N+](=O)[O-] | C19H17NO4
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
product | 2-[4-benzyloxy-2-nitronaphthalen-1-yl]ethyl acetate | C(C)(=O)OCCC1=C(C=C(C2=CC=CC=C12)OCC1=CC=CC=C1)[N+](=O)[O-] | C21H19NO5
